US07452880B2
To a solution of sodium hydride (0.175 g, 7 mmol) and (2-Chloro-phenyl)-(3,5-dichloro-pyrazin-2-yl)-methanone (0.86 g, 2.99 mmol) in 5 mL DMF was added (2-Fluoro-phenyl)-acetic acid methyl ester (0.503 g, 2.99 mmol). The reaction mixture was stirred for one hour at room temperature, and then was quenched by addition of water and aqueous HCl. The aqueous mixture was extracted with methylene chloride, and the combined organic phases were dried over MgSO4, filtered, and evaporated under reduced pressure to give 1.19 g of crude [6-Chloro-5-(2-chloro-benzoyl)-pyrazin-2-yl]-(2-fluoro-phenyl)-acetic acid methyl ester. Mass Spec. M+H=419.

reactant | sodium hydride | 7 mmol, 0.175 g | [H-].[Na+]
reactant | (2-Chloro-phenyl)-(3,5-dichloro-pyrazin-2-yl)-methanone | 2.99 mmol, 0.86 g | ClC1=C(C=CC=C1)C(=O)C1=NC=C(N=C1Cl)Cl | C11H5Cl3N2O
reactant | (2-Fluoro-phenyl)-acetic acid methyl ester | 2.99 mmol, 0.503 g | COC(CC1=C(C=CC=C1)F)=O | C9H9FO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [6-Chloro-5-(2-chloro-benzoyl)-pyrazin-2-yl]-(2-fluoro-phenyl)-acetic acid methyl ester | 1.19 g | COC(C(C1=C(C=CC=C1)F)C1=NC(=C(N=C1)C(C1=C(C=CC=C1)Cl)=O)Cl)=O | C20H13Cl2FN2O3
